US04939241
A mixture of benzyl O-acetoacetyl-N-trifluoroacetyl-L-serinate (320 mg) and 10% palladium on activated carbon (40 mg) in ethanol (10 ml) was hydrogenated under hydrogen at one atom for 20 minutes. The mixture was filtered with Celite (filter aid, trade mark, made by Nakarai Chemicals) and the filtrate was concentrated to give O-acetoacetyl-N-trifloroacetyl-L-serine (232 mg).

reactant | benzyl O-acetoacetyl-N-trifluoroacetyl-L-serinate | 320 mg | C(CC(=O)C)(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C16H16F3NO6
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | O-acetoacetyl-N-trifloroacetyl-L-serine | 232 mg | C(CC(=O)C)(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O | C9H10F3NO6
